US06063782
2,3-Dimethyl-1-(2-methylcyclopropylmethyl)-5-(3-phenylpropionyl)pyrrole
The title compound was prepared as a yellow oil in 99.1% yield in a similar procedure to that described in Referential Example 97 by using 2,3-dimethyl-5-(3-phenylpropionyl)pyrrole and 1-bromomethyl-2-methylcyclopropane.

reactant | 2,3-dimethyl-5-(3-phenylpropionyl)pyrrole | CC=1NC(=CC1C)C(CCC1=CC=CC=C1)=O | C15H17NO
reactant | 1-bromomethyl-2-methylcyclopropane | BrCC1C(C1)C | C5H9Br
product | 2,3-Dimethyl-1-(2-methylcyclopropylmethyl)-5-(3-phenylpropionyl)pyrrole | 99.1% yield | CC=1N(C(=CC1C)C(CCC1=CC=CC=C1)=O)CC1C(C1)C | C20H25NO
